US07825260B2
(R)-2-amino-2-methyl-4-(6-pentyloxynaphthalen-2-yl)butan-1-ol
N-Boc-(R)-2-amino-2-methyl-4-(6-pentyloxynaphthalen-2-yl)butan-1-ol (21 mg, 0.05 mmol) is dissolved in methanolic hydrochloric acid solution and stirred for 2 hours at RT. The solvent is distilled off in vacuo, and the residue is dried to obtain the title compound as its hydrochloride salt. NMR (CDCl3/d6DMSO=2/1) δ 7.65 (d, J=8.5 Hz, 1H), 7.63 (d, J=8.1 Hz, 1H), 7.57 (s, 1H), 7.32 (d, J=8.3 Hz, 1H), 7.07-7.17 (m, 2H), 4.06 (t, J=6.7 Hz, 2H), 3.71 (s, 2H), 2.78-2.88 (m, 2H), 2.0-2.1 (m, 2H), 1.8-1.9 (m, 2H), 1.38-1.53 (m, 4H), 1.41 (s, 3H), 0.95 (t, J=7 Hz, 3H). ESI+ MS: m/z=316.5 (MH)+.

reactant | N-Boc-(R)-2-amino-2-methyl-4-(6-pentyloxynaphthalen-2-yl)butan-1-ol | 0.05 mmol, 21 mg | C(=O)(OC(C)(C)C)N[C@@](CO)(CCC1=CC2=CC=C(C=C2C=C1)OCCCCC)C | C25H37NO4
solvent | hydrochloric acid | Cl | ClH
product | (R)-2-amino-2-methyl-4-(6-pentyloxynaphthalen-2-yl)butan-1-ol | N[C@@](CO)(CCC1=CC2=CC=C(C=C2C=C1)OCCCCC)C | C20H29NO2
